US04304785
In a nitrogen atmosphere 10 g trans-2,3-dihydro-2-(4-hydroxy-3-methoxyphenyl)-7-methoxy-3-methyl-5-(E)-propenylbenzofuran are dissolved in 400 ml 2 N potash lye and treated with 37 ml 35 percent formalin solution, then held for 24 hours at 74° C. and treated twice within this period with the same amount of formaline solution. After cooling follows acidification with dilute hydrochloric acid until a pH of 1 is attained, then extraction with ether, washing of the ether phase with water, 5 percent NaHCO3 solution and water, and drying over Na2SO4. The oil remaining upon removal of the ether is crystallized from methylenechloride/petroleum ether (boiling point 60°-80° C.) and yields 7 g 5-[trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenylbenzofuran-2-yl]-2-hydroxy-3-methoxybenzyl alcohol, melting point 117°-119° C.

reactant | trans-2,3-dihydro-2-(4-hydroxy-3-methoxyphenyl)-7-methoxy-3-methyl-5-(E)-propenylbenzofuran | OC1=C(C=C(C=C1)[C@@H]1OC2=C([C@H]1C)C=C(C=C2OC)\C=C\C)OC | C20H22O4
reactant | formalin | 37 ml | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | potash lye | 2 N, 400 ml | [OH-].[K+]
product | 5-[trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenylbenzofuran-2-yl]-2-hydroxy-3-methoxybenzyl alcohol | 7 g | COC1=CC(=CC=2[C@H]([C@@H](OC21)C=2C=C(C(=C(CO)C2)O)OC)C)\C=C\C | C21H24O5
